US08026257B2
(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methyl methanesulfonate.
To a solution of (5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methanol (2.5 g, 8 mmol) and triethylamine (3.34 mL, 24 mmol) in dichloromethane (120 mL) at 0° C. was added methanesulfonyl chloride (1.25 mL, 16 mmol). The reaction was stirred at 0° C. for 1 h. The reaction was quenched by addition of water, stirred 5 min, and poured into water. The layers were separated and the organics washed with brine, dried over magnesium sulfate, and concentrated to give 3.25 g (quant.). 1H-NMR (CDCl3, 500 MHz) δ 8.09 (s, 1H), 7.66 (d, J=1.8 Hz, 1H), 7.31 (d, J=0.9 Hz, 1H), 5.68 (s, 2H), 5.59 (s, 2H), 3.60 (t, J=8.2 Hz, 2H), 3.06 (s, 3H), 0.91 (t, J=8.2 Hz, 2H), −0.05 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 145.4, 127.5, 127.4, 125.0, 123.0, 122.8, 120.5, 82.1, 67.8, 67.4, 38.0, 17.9, −1.4. Mass spec.: 391.14 (MH)+.

reactant | (5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methanol | 8 mmol, 2.5 g | ClC1=CC2=CN(N=C2C(=C1)CO)COCC[Si](C)(C)C | C14H21ClN2O2Si
reactant | triethylamine | 24 mmol, 3.34 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 16 mmol, 1.25 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | (5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methyl methanesulfonate | CS(=O)(=O)OCC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)Cl | C15H23ClN2O4SSi
